US04343889
The monomer 3-oximino-2-butanone methacrylate (OBM) was prepared. This preparation began by cooling to a temperature of 0 degree C. with an ice water bath, a solution of butanedione monoxime (54.5 g) and triethylamine (120 ml) in ether (1000 ml). Approximately 56 ml of methacryloyl chloride in 250 ml of ether was added dropwise under a nitrogen atmosphere over the course of 1 hour. The solution was stirred during this addition and the stirring was continued under nitrogen at 0 degree C. for 3 hours after the addition was completed. The resulting mixture was filtered to remove the solid residues. The solid residues were discarded, and the liquid obtained was transferred to a separatory funnel. Approximately 300 ml of water was added to the separatory funnel and the liquid was agitated. The water and ether phases were separated, the water phase was discarded, and the ether phase was dried over magnesium sulfate for 1 hour. The magnesium sulfate was removed by filtration and the ether solution was evaporated to dryness on a rotary evaporator using water aspirator vacuum. The resulting solid was recrystallized from cyclohexane to yield 45 g of OBM. (The material obtained melted between 38.5 and 39 degrees C.)

reactant | butanedione monoxime | 54.5 g | CC(C(C)=O)=NO | C4H7NO2
reactant | triethylamine | 120 ml | C(C)N(CC)CC | C6H15N
reactant | methacryloyl chloride | 56 ml | C(C(=C)C)(=O)Cl | C4H5ClO
reactant | water | 300 ml | O | H2O
solvent | ether | 1000 ml | CCOCC | C4H10O
solvent | ether | 250 ml | CCOCC | C4H10O
product | 3-oximino-2-butanone methacrylate | 45 g | C(C(=C)C)(=O)O.N(O)=C(C(C)=O)C | InChI=1S/C4H7NO2.C4H6O2/c1-3(5-7)4(2)6;1-3(2)4(5)6/h7H,1-2H3;1H2,2H3,(H,5,6)
